US20010018099A1
A mixture of 3-(perfluoro-n-octyl)benzenamine (2.04 g), 2,4-dinitrofluorobenzene (0.78 g), NMP (8 mL) and triethylamine (0.85 mL) was heated to 70° C. for 16 hr. Extraction and recrystallization from hexane-ethyl acetate gave N-[3-(perfluorooctyl)phenyl]-2,4-dinitrobenzenamine (2.25 g, mp 124.5-125° C.).

reactant | 3-(perfluoro-n-octyl)benzenamine | 2.04 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C=1C=C(C=CC1)N)F | C14H6F17N
reactant | 2,4-dinitrofluorobenzene | 0.78 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | NMP | 8 mL | CN1CCCC1=O | C5H9NO
solvent | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
product | N-[3-(perfluorooctyl)phenyl]-2,4-dinitrobenzenamine | 2.25 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C=1C=C(C=CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])F | C20H8F17N3O4
